US09126999B2
Preparation 7: 2-bromo-5-(1-ethyl-3-methyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine
1-(1,3-dimethyl-1H-pyrazol-4-yl)-4,4,4-trifluoro-3-hydroxybut-2-en-1-one (Preparation 5, 1.7 g) and 3-bromo-1H-pyrazol-5-amine (Preparation 6, 1.18 g) in Acetic acid (52.61 mL) was heated at 120° C. in a sealed tube overnight. The reaction solution was cooled to room temperature, and poured into ice water (500 mL) resulting in a white precipitate. The precipitate was filtered and washed with copious amounts of water. The precipitate was then collected and dried in vacuo to afford the title compound as a white powder (1.9 g, 73.1%).

reactant | 1-(1,3-dimethyl-1H-pyrazol-4-yl)-4,4,4-trifluoro-3-hydroxybut-2-en-1-one | 1.7 g | CN1N=C(C(=C1)C(C=C(C(F)(F)F)O)=O)C | C9H9F3N2O2
reactant | 3-bromo-1H-pyrazol-5-amine | 1.18 g | BrC1=NNC(=C1)N | C3H4BrN3
reactant | Acetic acid | 52.61 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-5-(1-ethyl-3-methyl-1H-pyrazol-4-yl)-7-(trifluoromethyl)pyrazolo[1,5-a]pyrimidine | 1.9 g, 73.1% | BrC1=NN2C(N=C(C=C2C(F)(F)F)C=2C(=NN(C2)CC)C)=C1 | C13H11BrF3N5
